US05028606
A mixture of 5 parts of 4-(1H-imidazol-1-ylmethyl)-1,2-benzenediamine, 4 parts of diethyl ethanedioiate and 40 parts of methanol was stirred for 4 hours at room temperature. The precipitated product was filtered off and dried, yielding 4 parts (62.3%) of 6-(1H-imidazol-1-ylmethyl)-2,3(1H,4H)-quinoxalinedione; mp. >300° C. (comp. 315).

reactant | 4-(1H-imidazol-1-ylmethyl)-1,2-benzenediamine | N1(C=NC=C1)CC=1C=C(C(=CC1)N)N | C10H12N4
reactant | diethyl ethanedioiate | C(C)CC([O-])([O-])CC
reactant | methanol | CO | CH4O
product | 6-(1H-imidazol-1-ylmethyl)-2,3(1H,4H)-quinoxalinedione | 62.3% | N1(C=NC=C1)CC=1C=C2NC(C(NC2=CC1)=O)=O | C12H10N4O2
